US04239702
p-chlorobenzyl-alcohol
100 ml of glacial acetic acid and 5 g of 5% Pd on C are added to a solution of p-chlorobenzoyl-ethyl carbonate (22.8 g=0.1 moles). The mixture is reduced in a PARR apparatus for 10 hours at 60° and under a pressure of 200 psi (14 atm) of H2. We proceed as in Example II. We obtain 11.7 g (82%) of a product having the following characteristics:

reactant | p-chlorobenzoyl-ethyl carbonate | 0.1 moles, 22.8 g | C(OCCC(C1=CC=C(C=C1)Cl)=O)([O-])=O
catalyst | Pd | 5 g | [Pd] | Pd
solvent | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
product | p-chlorobenzyl-alcohol | 11.7 g, 82% | ClC1=CC=C(CO)C=C1 | C7H7ClO
